US08034811B2
O-(5-Chloro-thiophen-2-ylmethyl)-hydroxylamine
Prepared by a similar procedure as described for preparation 15. Starting materials: N-hydroxyphthalimide and 2-chloro-5-(chloromethyl)thiophene (Aldrich). 13C-NMR (DMSO-d6) δ 140.2, 127.9, 126.3, 126.0, 71.1.

reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 2-chloro-5-(chloromethyl)thiophene | ClC=1SC(=CC1)CCl | C5H4Cl2S
product | O-(5-Chloro-thiophen-2-ylmethyl)-hydroxylamine | ClC1=CC=C(S1)CON | C5H6ClNOS
